US05955379
A. 16-(p-Toluensulfonyloxy)hexadecanol (Structure 1)
To a solution of 1.1 g of 1,16-dihydroxyhexadecane in 10 ml of dry pyridine 0.8 g of tosyl chloride was added. After 2 h mixture was concentrated diluted with 20 ml of acetone, 5 g of SiO2 was added and acetone was removed in vacuum. The solid was applied on SiO2 and eluted with pentane-ethyl acetate (2:1) to yield 748 mg (42%) of the compound of Structure 1 (C-101).

reactant | 1,16-dihydroxyhexadecane | 1.1 g | OCCCCCCCCCCCCCCCCO | C16H34O2
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 10 ml, 0.8 g | N1=CC=CC=C1 | C5H5N
product | 16-(p-Toluensulfonyloxy)hexadecanol | 748 mg, 42% | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCCCCCCCCCCCCO)C | C23H40O4S
